US05543523
Into a stirred solution of (1R, 3R)-1,2,3,4-tetrahydro-6,8-dimethoxy-1,3-dimethyl-isoquinoline (114 mg, 0.5 mmol) and benzyl chloride (137 mg, 1.1 mmol) in methyl ethyl ketone was added K2CO3 (320 mg, 2.3 mmol). The resulting mixture was heated to reflux for 24 h, after which time it was cooled down and poured into H2O. Et2O was added and the organic layer was washed with H2O, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by MPLC (hexanes/EtOAc/Et3N; 9:1:0.3) to yield N-benzyl-(1R, 3R)-1,2,3,4-tetrahydro-6,8-dimethoxy-1,3-dimethyl-isoquinoline (148 mg, 93%) as a colorless oil; 1H NMR (500 MHz, CDCl3): δ7.40-7.20 [m, benzyl ArH], 6.28 [d, J=2.0 Hz, ArH(7)], 6.23 [d, J=2.0 Hz, ArH(5)], 3.66 [q, J=6.5 Hz, ArCHCH3 ], 3.82 [d, J=14.0 Hz, NCHaHbPh], 3.78 [s, O(6)CH3 ], 3.70 [s, O(8)CH3, 3.50 [ddq, J=10.5, 5.0 and 6.5 Hz, CHaHbCHCH3 ], 3.29 [d, J=14.0 Hz, NCHaHbPh], 2.63 [dd, J=17.0 and 10.5 Hz, CHaHbCH], 2.58 [dd, J=17.0 and 5.0 Hz, CHaHbCH], 1.30 [d, J=6.5 Hz, CH3 (1)], and 1.25 [d, J=6.5 Hz, CH3 (3)]; 13C NMR (75 MHz, CDCl3): δ158.5, 158.4, 141.7, 136.8, 128.4 [2C], 128.1 [3C], 126.4, 104.1, 96.4, 55.2, 55.1, 51.4, 49.8, 45.8, 32.6, 20.0, and 19.5; LRMS (EI): m/z 296 (M+ --CH3, 100), and 91 (44); IR (neat NaCl plates): 2965, 1605, and 1148 cm-1 ; Anal. calcd for C20H25NO2 : C, 77.14; H, 8.09. Found: C, 77.30; H, 8.06.

reactant | (1R, 3R)-1,2,3,4-tetrahydro-6,8-dimethoxy-1,3-dimethyl-isoquinoline | 0.5 mmol, 114 mg | COC=1C=C2C[C@H](N[C@@H](C2=C(C1)OC)C)C | C13H19NO2
reactant | benzyl chloride | 1.1 mmol, 137 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 2.3 mmol, 320 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | N-benzyl-(1R, 3R)-1,2,3,4-tetrahydro-6,8-dimethoxy-1,3-dimethyl-isoquinoline | 148 mg, 93% | C(C1=CC=CC=C1)N1[C@@H](C2=C(C=C(C=C2C[C@H]1C)OC)OC)C | C20H25NO2
